US07186729B2
Step 1: 1-Benzyl-4-(4-chloro-phenylamino)-piperidine-4-carbonitrile
To a solution of 1-Benzyl-piperidin-4-one (2.68 g, 14.20 mmol) in acetic acid (13 ml, glacial) was added 4-Chloro-phenylamine (1.99 g, 15.6 mmol). The reaction was cooled in a cool temperature water bath. Trimethylsilylcyanide (1.89 ml, 14.20 mmol) was added slowly. The reaction mixture was allowed to warm to room temperature and stir overnight under N2. The reaction was cooled to 0° C. Concentrated ammonium hydroxide (15 ml) was added slowly. Next added was cold water. The pH of the mixture was ≈10. The mixture was extracted three times with methylene chloride, and the organic layers were dried over magnesium sulfate, filtered, and concentrated under reduced pressure. Ether was added to the residue, and the white solid was filtered off and dried under high vacuum to give the titled compound (3.73 g, 81%)

reactant | 1-Benzyl-piperidin-4-one | 14.20 mmol, 2.68 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | 4-Chloro-phenylamine | 15.6 mmol, 1.99 g | ClC1=CC=C(C=C1)N | C6H6ClN
reactant | Trimethylsilylcyanide | 14.20 mmol, 1.89 ml | C[Si](C)(C)C#N | C4H9NSi
reactant | ammonium hydroxide | 15 ml | [OH-].[NH4+]
solvent | acetic acid | 13 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 1-Benzyl-4-(4-chloro-phenylamino)-piperidine-4-carbonitrile | 3.73 g, 81% | C(C1=CC=CC=C1)N1CCC(CC1)(C#N)NC1=CC=C(C=C1)Cl | C19H20ClN3
